US07037935B2
e) (RS)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide
300 mg (0.87 mmol) (RS)-1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester is dissolved in a mixture of 1 ml N,N-dimethylformamide and 0.18 ml of a 33% solution of methylamine in ethanol. The reaction vessel is tightly stopped and hold at 120° C. for 48 hours. Water is added and the product extracted with ethyl acetate. Drying and evaporation yields 92 mg (31%) of a slightly yellowish product. MS: m/e=343.3 (M+H)+.

reactant | (RS)-1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 0.87 mmol, 300 mg | COC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F | C19H18FNO4
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | (RS)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide | CNC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F | C19H19FN2O3
